US05397798
N-[2-[[[3-(1H-Imidazol-1-yl)propyl]amino]sulfonyl]phenyl]-3-(trifluoromethyl)benzamide
A solution of 4.24 g (0.0203 mol) of m-trifluoromethylbenzoyl chloride in 10 ml of dichloromethane was added dropwise to a solution of 4.35 g (0.0153 mol) of 2-amino-N-[(3-imidazol-1-yl)propyl]benzenesulfonamide, prepared as in Examples 1A and 1B, in 70 ml of pyridine, under nitrogen. When the reaction was complete, as determined by thin layer chromatography, the resulting reaction mixture was reduced to dryness under reduced pressure. The resultant oil was dissolved in an ethyl acetate/aqueous sodium bicarbonate mixture. The resulting layers were separated, the organic layer was washed with water and again reduced to dryness under reduced pressure to provide an oil. This oil was then purified using column chromatography (8000 ml of a gradient eluent of 0-15% methanol in chloroform). The fractions containing the desired product were combined, reduced to dryness under reduced pressure and then recrystallized from an ethanol/hexane/diethyl ether solution to provide 4.08 g of the desired titled compound (m.p. 145°-147° C.).

reactant | m-trifluoromethylbenzoyl chloride | 0.0203 mol, 4.24 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | 2-amino-N-[(3-imidazol-1-yl)propyl]benzenesulfonamide | 0.0153 mol, 4.35 g | NC1=C(C=CC=C1)S(=O)(=O)NCCCN1C=NC=C1 | C12H16N4O2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-[[[3-(1H-Imidazol-1-yl)propyl]amino]sulfonyl]phenyl]-3-(trifluoromethyl)benzamide | 4.08 g | N1(C=NC=C1)CCCNS(=O)(=O)C1=C(C=CC=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C20H19F3N4O3S
